US05212320
A mixture of 4-[3-(3-nitrobenzoyl)indol-1-yl]butyric acid (1.20 g), 10% palladium on carbon (300 mg), methanol (12 ml) and 1,4-dioxane (12 ml) was stirred under hydrogen atmosphere (3 atm) at 25° C. for 45 minutes. The mixture was filtered and the filtrate was evaporated to give 4-[3-(3-aminobenzoyl)indol-1-yl]butyric acid (982 mg) as yellow oil.

reactant | 4-[3-(3-nitrobenzoyl)indol-1-yl]butyric acid | 1.20 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H16N2O5
reactant | methanol | 12 ml | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(3-aminobenzoyl)indol-1-yl]butyric acid | 982 mg | NC=1C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)O)C=CC1 | C19H18N2O3
